US08859602B2
4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-hydroxy-1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-phenyl}-amide
The title compound was prepared as described in Example 1, step (h) using 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in Example 1, step (g) and 1-(2,2,2-trifluoro-ethyl)-piperidin-4-one (WO 9621452). 1H-NMR (CD3OD; 400 MHz): δ 12.9 (br s, 1H), 9.62 (s, 1H), 8.21 (d, 1H, J=8.4 Hz), 7.63 (s, 1H), 7.38 (dd, 1H, J=8.4, 2.0 Hz), 7.24 (d, 1H, J=2.0 Hz), 5.73 (br s, 1H), 4.13 (m, 2H), 2.91-3.23 (m, 4H), 1.93-2.32 (m, 4H), 1.53 (m, 2H), 1.08 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C26H30F3N5O2, 502.5 (M+H). found 502.2.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C19H19BrN4O
reactant | 1-(2,2,2-trifluoro-ethyl)-piperidin-4-one | FC(CN1CCC(CC1)=O)(F)F | C7H10F3NO
product | 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-hydroxy-1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-phenyl}-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCN(CC1)CC(F)(F)F)O)NC(=O)C=1NC=C(N1)C#N)C | C26H30F3N5O2
